US09382231B2
Step 3: 2,5-Difluoro-4-(3-oxoazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
To a solution of 2,5-difluoro-4-(3-hydroxyazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide (7.57 g, 23.3 mmol) in methylene chloride (93 mL) was added iodobenzene diacetate (9.40 g, 29.2 mmol) and 2,2,6,6-tetramethyl-1-piperidinyloxy free radical (1.82 g, 11.7 mmol) (TEMPO) at room temperature. The reaction mixture was stirred at room temperature overnight. The mixture was diluted with EtOAc (100 mL), washed with 0.5N NaHCO3 (2×80 mL), 20% brine (100 mL) and water (100 mL). The aqueous layers were extracted with ethyl acetate (75 mL). The organic extracts were combined, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column eluting with 0% to 5% ethyl acetate in methylene chloride to afford the crude product which was recrystallized from MTBE (50 mL) and heptane (100 mL) to give the desired product (5.44 g, 72%) as colorless solid. 1H NMR (300 MHz, DMSO-d6) δ 8.52 (d, J=8.0 Hz, 1H), 7.36 (dd, J=12.5, 6.5 Hz, 1H), 6.63 (dd, J=12.1, 7.6 Hz, 1H), 4.90 (d, J=2.1 Hz, 4H), 4.86-4.68 (m, 1H), 1.31 (d, J=7.1 Hz, 3H) ppm. LCMS cacld. for C13H12F5N2O2 (M+1)+: m/z=323.1. Found: 323.0.

reactant | 2,5-difluoro-4-(3-hydroxyazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 23.3 mmol, 7.57 g | FC1=C(C(=O)N[C@H](C(F)(F)F)C)C=C(C(=C1)N1CC(C1)O)F | C13H13F5N2O2
reactant | iodobenzene diacetate | 29.2 mmol, 9.40 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | methylene chloride | 93 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2,5-Difluoro-4-(3-oxoazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 5.44 g, 72% | FC1=C(C(=O)N[C@H](C(F)(F)F)C)C=C(C(=C1)N1CC(C1)=O)F | C13H11F5N2O2
